US08686002B2
7-Fluoro-3-(2-fluoro-6-methoxybenzyl)quinolin-2-amine
The title compound was synthesized according to EXAMPLE 11 from 2-amino-4-fluorobenzaldehyde and 3-(2-methoxy-6-fluorophenyl)propionitrile.

reactant | 2-amino-4-fluorobenzaldehyde | NC1=C(C=O)C=CC(=C1)F | C7H6FNO
reactant | 3-(2-methoxy-6-fluorophenyl)propionitrile | COC1=C(C(=CC=C1)F)CCC#N | C10H10FNO
product | 7-Fluoro-3-(2-fluoro-6-methoxybenzyl)quinolin-2-amine | FC1=CC=C2C=C(C(=NC2=C1)N)CC1=C(C=CC=C1OC)F | C17H14F2N2O
